US04666915
To a solution of N-[2-(2-methylpropoxy)phenyl]guanidine (89 g) in denatured alcohol (300 ml) is added dropwise diethyl ethoxymethylenemalonate (93 g), and the mixture is refluxed with stirring for 3 hours. After cooling, the precipitate is collected by filtration, washed with denatured alcohol and petroleum ether and dried to give ethyl 1,6-dihydro-2-[2-(2-methylpropoxy)anilino]-6-oxo-5-pyrimidinecarboxylate (94 g). M.p. 188°-190° C.

reactant | N-[2-(2-methylpropoxy)phenyl]guanidine | 89 g | CC(COC1=C(C=CC=C1)NC(=N)N)C | C11H17N3O
reactant | diethyl ethoxymethylenemalonate | 93 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | ethyl 1,6-dihydro-2-[2-(2-methylpropoxy)anilino]-6-oxo-5-pyrimidinecarboxylate | 94 g | CC(COC1=C(NC=2NC(C(=CN2)C(=O)OCC)=O)C=CC=C1)C | C17H21N3O4
